US05739129
1H-Indole-2-carboxylic acid {1-[isopropyl-(4-methoxyphenyl)-carbamoylmethyl]-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide
To a solution of 2-(3-Amino-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]-diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl)-acetamide (350 mg, 0.883 mmol) in DMF (10 mL) were added indole-2-carboxylic acid (142 mg, 0.883 mmol), N-hydroxybenzotriazole (119 mg, 0.883 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (169 mg, 0.883 mmol) successively with stirring. The resultant mixture was stirred at ambient temperature for 18 hours. The solvent was evaporated under reduced pressure to give a yellow oil which was dissolved in ethyl acetate (60 mL), washed with water (20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to a yellow oil which solidified on standing. The crude product was triturated with boiling ethanol (20 mL), cooled, filtered, and dried to give the title compound (169 mg, 0.313 mmol) as a yellow solid: 1H NMR (300 MHz, Acetone-d6): d 10.85 (br s, 1H), 9.83 (brs, 1H), 7.67 (m, 2H), 7.53 (m, 2H), 7.37-7.20 (m, 7H), 7.04 (m, 3H), 5.28 (d, J=7.5 Hz, 1H), 4.87 (m, 1H), 4.31 (d, J=16.3 Hz, 1H), 4.13 (d, J=16.6 Hz, 1H), 3.83 (s, 3H), 1.02 (m, 6H); TLC (CH2Cl2 /CH3OH (19:1)): Rf =0.24; MS (FAB): m/z=540 (MH+).

reactant | 2-(3-Amino-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]-diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl)-acetamide | 0.883 mmol, 350 mg | NC1C(NC2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O | C21H24N4O4
reactant | indole-2-carboxylic acid | 0.883 mmol, 142 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N-hydroxybenzotriazole | 0.883 mmol, 119 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.883 mmol, 169 mg | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 1H-Indole-2-carboxylic acid {1-[isopropyl-(4-methoxyphenyl)-carbamoylmethyl]-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide | 0.313 mmol, 169 mg | C(C)(C)C(N1C2=C(NC(C(C1=O)NC(=O)C=1NC3=CC=CC=C3C1)=O)C=CC=C2)(C(N)=O)C2=CC=C(C=C2)OC | C30H29N5O5
